US04899249
N-Hexyl Trifluoroacetamide
In a manner similar to Example 6, ethyl trifluoroacetate (131 g, 0.92 m) was reacted with n-hexylamine. The resulting amide distilled at 64° C./0.2 mm Hg and amounted to 154 g.

reactant | ethyl trifluoroacetate | 131 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | n-hexylamine | C(CCCCC)N | C6H15N
product | N-Hexyl Trifluoroacetamide | C(CCCCC)NC(C(F)(F)F)=O | C8H14F3NO
